US04051248
A. 2-[(Dimethylamino)methyl]-5,6-dimethoxy-1-indanone, hydrochloride (1:1)
5,6-Dimethoxy-1-indanone (5.0 g), paraformaldehyde (1.6 g) and dimethylamine hydrochloride (2.7 g) are suspended in 15 ml of absolute ethanol, treated with 0.43 ml of concentrated hydrochloric acid and the mixture refluxed for 7 hours. The resulting suspension is cooled, diluted with 100 ml of acetone, stirred for 10 to 15 minutes and the precipitate filtered off to yield 4.0 g of the title compound, melting point 178°-180° C.

reactant | 5,6-Dimethoxy-1-indanone | 5.0 g | COC=1C=C2CCC(C2=CC1OC)=O | C11H12O3
reactant | paraformaldehyde | 1.6 g | C=O | CH2O
reactant | dimethylamine hydrochloride | 2.7 g | Cl.CNC
reactant | hydrochloric acid | 0.43 ml | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-[(Dimethylamino)methyl]-5,6-dimethoxy-1-indanone, hydrochloride | 4.0 g | Cl.CN(C)CC1C(C2=CC(=C(C=C2C1)OC)OC)=O | InChI=1S/C14H19NO3.ClH/c1-15(2)8-10-5-9-6-12(17-3)13(18-4)7-11(9)14(10)16;/h6-7,10H,5,8H2,1-4H3;1H
